US05298498
[2-fluoro-1,3-phenylenebis(methylene)]bisphosphonic acid tetramethyl ester
A solution of 2,6-bis(bromomethyl)-1-fluorobenzene (2.82 g, 0.010 mole) and trimethylphosphite (5.0 mL, 0.042 mole) in toluene (25 mL) is heated at reflux temperature for 24 hours, after which the solvent and excess trimethylphosphite are removed under reduced pressure. The solid residue is crystallized from ethyl acetate-hexane, giving 3.12 g (0.0089 mole, 89%) of of the title compound, mp 116.5°-117.5° C. Recrystallization gives 2.64 g, mp 117°-118° C.

reactant | 2,6-bis(bromomethyl)-1-fluorobenzene | 0.010 mole, 2.82 g | BrCC1=C(C(=CC=C1)CBr)F | C8H7Br2F
reactant | trimethylphosphite | 0.042 mole, 5.0 mL | COP(OC)OC | C3H9O3P
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | [2-fluoro-1,3-phenylenebis(methylene)]bisphosphonic acid tetramethyl ester | COP(OC)(=O)CC=1C(=C(C=CC1)CP(OC)(OC)=O)F | C12H19FO6P2
